US09169217B2
Preparation of 4-trifluoromethoxybenzyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate (Compound 20)
A suspension of 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinic acid (200 mg, 0.573 mmol), 1-(bromomethyl)-4-(trifluoromethoxy)benzene (161 mg, 0.630 mmol) and K2CO3 (119 mg, 0.859 mmol) in DMF (2 mL) was heated at 50° C. overnight. The reaction mixture was then concentrated in vacuo. The residue was purified by silica gel chromatography (eluting with 0-80% EtOAc/hexane gradient) to yield a white solid (154 mg, 51.4%): mp 155-156° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.60 (d, J=8.7 Hz, 2H), 7.47 (dd, J=8.5, 1.5 Hz, 1H), 7.41 (d, J=8.0 Hz, 2H), 7.29 (dd, J=8.5, 7.1 Hz, 1H), 7.14 (s, 2H), 5.41 (s, 2H), 3.95-3.90 (m, 3H); ESIMS m/z 523 ([M+H]+), 521 ([M−H]−).

reactant | 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinic acid | 0.573 mmol, 200 mg | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)Cl | C13H8Cl2F2N2O3
reactant | 1-(bromomethyl)-4-(trifluoromethoxy)benzene | 0.630 mmol, 161 mg | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
reactant | K2CO3 | 0.859 mmol, 119 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-trifluoromethoxybenzyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoropicolinate | 154 mg, 51.4% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=C(C=C1)OC(F)(F)F)Cl | C21H13Cl2F5N2O4
